US07572820B2
A. 5-Bromo-N′-(chloroacetyl)-3-pyridinecarbohydrazide
To an ice-cold suspension of 5-bromo-3-pyridinecarbohydrazide (3.0 g, 13.88 mmol) in anhydrous CH2Cl2 (60 mL) was added 4-methyl-morpholine (2.1 g, 20.82 mmol), followed by dropwise addition of chloroacetyl chloride (1.88 g, 16.67 mmol). The cold bath was then removed and the mixture stirred at rt for 15 h. Heavy precipitation occurred and the mixture was diluted with additional CH2Cl2 (50 mL) and stirring continued for 24 h. The solids were collected by filtration and washed with CH2Cl2 to afford the title compound (3.66 g, 90% yield): MS (ES) m/z 292 and 294 (M+1 Br isotopes).

reactant | 5-bromo-3-pyridinecarbohydrazide | 13.88 mmol, 3.0 g | BrC=1C=C(C=NC1)C(=O)NN | C6H6BrN3O
reactant | 4-methyl-morpholine | 20.82 mmol, 2.1 g | CN1CCOCC1 | C5H11NO
reactant | chloroacetyl chloride | 16.67 mmol, 1.88 g | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-N′-(chloroacetyl)-3-pyridinecarbohydrazide | 3.66 g, 90% yield | BrC=1C=C(C=NC1)C(=O)NNC(CCl)=O | C8H7BrClN3O2
